US07851473B2
(2) 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride
To a solution of tert-butyl 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (2.49 g, 6.85 mmol) in ethyl acetate (100 ml) was added a 4N solution (100 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure to give 1.88 g (82.0%) of the desired product as a solid.

reactant | tert-butyl 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 6.85 mmol, 2.49 g | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H23FN2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride | 1.88 g, 82.0% | Cl.Cl.FC1=CC=C(C=C1)C=1N=C(SC1)N1CCCCC1 | InChI=1S/C14H15FN2S.2ClH/c15-12-6-4-11(5-7-12)13-10-18-14(16-13)17-8-2-1-3-9-17;;/h4-7,10H,1-3,8-9H2;2*1H
